US06316494B1
(±)-cis-7-Hydroxy-3-(2,3,4,5,6-pentafluorophenyl)-4-(4-(2-piperidinoethoxy)phenyl)-chromane
In an manner analogous to that described in step 5 for Example 10, (±)-cis-7-methoxy-3-(2,3,4,5,6-pentafluorophenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane (0.428 g, 0.75 mmol) was de-methylated by heating with pyridine hydrochloride to give the title compound as an off-white foam.

reactant | (±)-cis-7-methoxy-3-(2,3,4,5,6-pentafluorophenyl)-4-(4-(2-piperidinoethoxy)phenyl)chromane | 0.75 mmol, 0.428 g | COC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=C(C(=C(C(=C1F)F)F)F)F)C1=CC=C(C=C1)OCCN1CCCCC1 | C29H28F5NO3
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
product | (±)-cis-7-Hydroxy-3-(2,3,4,5,6-pentafluorophenyl)-4-(4-(2-piperidinoethoxy)phenyl)-chromane | OC1=CC=C2[C@@H]([C@@H](COC2=C1)C1=C(C(=C(C(=C1F)F)F)F)F)C1=CC=C(C=C1)OCCN1CCCCC1 | C28H26F5NO3
